US08461158B2
A suspension of N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-4-piperidinyl]-1,3-propanediamine from the previous step in MeOH (20 mL) was treated with a slight excess of 1.25 M HCl in MeOH (1.1 equiv.) to give a clear solution. The solvent was removed under vacuum and the residue was washed with EtOAc to give N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-4-piperidinyl]-1,3-propanediamine hydrochloride: mp (CH2Cl2/MeOH) 241-243° C.; 1H NMR (DMSO-d6) (rotamers) δ 9.95 (br, 1H), 7.90 and 7.89 (2d, J=8.2, 8.3 Hz, 1H), 7.71 and 7.70 (2t, JHF=52.9, 53.0 Hz, 1H), 7.45 (t, J=8.2 Hz, 1H), 6.96 (d, J=8.1 Hz, 1H), 4.69-4.55 (m, 1H), 3.98 (s, 3H), 3.82-3.70 (m, 10H), 3.60-3.52 (m, 2H), 3.12-3.05 (m, 2H), 2.94 and 2.92 (2s, 3H), 2.90-2.79 (m, 2H), 2.74 and 2.70 (2s, 6H), 2.02-1.80 (m, 6H); Anal Calcd. for C27H39F2N9O4S.1.25HCl.0.5H2O: C, 47.8; H, 6.1; Cl, 6.5; N, 18.6. Found: C, 47.9; H, 6.0; Cl, 6.4; N, 18.6%.

reactant | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-4-piperidinyl]-1,3-propanediamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CCN(CC1)S(=O)(=O)C)C=CC=C2OC)F | C27H39F2N9O4S
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 1.1 equiv. | CO | CH4O
product | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-4-piperidinyl]-1,3-propanediamine hydrochloride | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CCN(CC1)S(=O)(=O)C)C=CC=C2OC)F | InChI=1S/C27H39F2N9O4S.ClH/c1-34(2)11-6-12-37(19-9-13-36(14-10-19)43(4,39)40)26-31-25(35-15-17-42-18-16-35)32-27(33-26)38-20-7-5-8-21(41-3)22(20)30-24(38)23(28)29;/h5,7-8,19,23H,6,9-18H2,1-4H3;1H
